US07531532B2
4-(2-Fluoro-4-nitrophenoxy)-2-[(4-hydroxypiperidin-1-yl)carbonylamino]pyridine
2-Amino-4-(2-fluoro-4-nitrophenoxy)pyridine (124.6 mg) was dissolved in tetrahydrofuran (2.5 ml) under a nitrogen atmosphere, and then triethylamine (0.105 ml) and phenyl chloroformate (0.094 ml) were added dropwise thereto while cooling in an ice bath, followed by stirring at room temperature for 1 hr. The reaction mixture was concentrated under a reduced pressure to give a residue, which was dissolved in N,N-dimethylformamide (1.25 ml), and then 4-hydroxypiperidine (253 mg) was added thereto at room temperature, followed by stirring for 2 hrs. To the reaction mixture was added a saturated aqueous solution of ammonium chloride, followed by extracting with ethyl acetate. The organic layer was washed with a saturated aqueous solution of ammonium chloride and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:2 to 1:4, then ethyl acetate) to provide the titled compound (169 mg, 90%) as pale yellow powder.

reactant | 2-Amino-4-(2-fluoro-4-nitrophenoxy)pyridine | 124.6 mg | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C11H8FN3O3
reactant | phenyl chloroformate | 0.094 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-hydroxypiperidine | 253 mg | OC1CCNCC1 | C5H11NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 1.25 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.105 ml | C(C)N(CC)CC | C6H15N
product | 4-(2-Fluoro-4-nitrophenoxy)-2-[(4-hydroxypiperidin-1-yl)carbonylamino]pyridine | 169 mg, 90% | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)O)C=CC(=C1)[N+](=O)[O-] | C17H17FN4O5
